US07553846B2
A mixture of methyl 2-(chloromethyl)benzoxazole-4-carboxylate (267 mg, 1.18 mmol) and diethylamine (2.0 mL, 27.4 mmol) in THF (15 mL) was stirred at ambient temperature overnight. The solvent was removed under reduced pressure and the residue was purified by column chromatography (silica gel, 10:1:0.1 dichloromethane/methanol/concentrated ammonium hydroxide), followed by purification by preparative TLC (silica gel, 10:1:0.1 dichloromethane/methanol/concentrated ammonium hydroxide) to afford methyl 2-(diethylaminomethyl)benzoxazole-4-carboxylate (200 mg, 64%) as a yellow oil: 1H NMR (300 MHz, CDCl3) δ 7.99 (dd, J=9.0, 1.0 Hz, 1H), 7.74 (dd, J=9.0, 1.0 (1H), 6.40 (t, J=8.1 Hz, 1H), 4.09 (s, 2H), 4.04 (s, 3H), 2.74-2.69 (m, 4H), 1.13 (t, J=6.6 Hz, 1H); MS (ESI+) m/z 263 (M+H).

reactant | methyl 2-(chloromethyl)benzoxazole-4-carboxylate | 1.18 mmol, 267 mg | ClCC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C10H8ClNO3
reactant | diethylamine | 27.4 mmol, 2.0 mL | C(C)NCC | C4H11N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | methyl 2-(diethylaminomethyl)benzoxazole-4-carboxylate | 200 mg, 64% | C(C)N(CC)CC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C14H18N2O3
